datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([O:4])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:5])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7],102.09
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])[H:18])[H:17])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])=[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])[H:13])([H:11])[H:12],127.654
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([O:7][O:8][H:19])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([O:7][O:8][H:19])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[O:5]1)([H:9])([H:10])[H:11].[O:6][H:18],37.656
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19],7.1128
[C:0](=[C:1]=[C:2][C:3]([H:6])([H:7])[H:8])([H:4])[H:5]>>[C:0](=[C:1]=[C:2]([C:3]([H:7])[H:8])[H:6])([H:4])[H:5],214.467656
[C:0](=[N:1][H:4])([H:2])[H:3].[O:5]>>[C:0](=[N:1][H:4])[H:3].[H:2][O:5],108.617
[C:0]([S:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][H:9]>>[C:0]([S:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][O:8][H:9],0.0
[C:0](=[C:1]([O:2][H:7])[C:3]([C:4]([H:10])([H:11])[H:12])([H:8])[H:9])([H:5])[H:6]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:10])([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7],204.179
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](#[C:6][C:7]([C:8]([H:11])([H:12])[H:13])[H:10])[H:9]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6]#[C:5][H:9])([C:8]([H:11])([H:12])[H:13])[H:10],0.8368
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[S:11][H:18])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[S:11][H:18],57.7392
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[C:13]1([H:19])[C:14]([H:20])([H:21])[C:15]([H:22])([H:23])[C:16]([H:24])([H:25])[C:17]([H:26])([H:27])[C:18]1([H:28])[H:29]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])([H:5])[C:13]1([H:19])[C:14]([H:20])([H:21])[C:15]([H:22])([H:23])[C:16]([H:24])([H:25])[C:17]([H:26])([H:27])[C:18]1([H:28])[H:29],0.0
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:20]([H:21])([H:22])[H:23])[H:13])[H:12])([H:10])[H:11],22.7191
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:16])([H:17])[H:18])([C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])[H:19])[H:6])([H:4])[H:5],52.1326
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[C:23]([C:22]([H:30])([H:31])[H:32])([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:10])([H:11])[H:12],46.4842
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10][C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10](=[C:9]([H:13])[H:14])[C:11](=[C:12]([H:16])[H:17])[H:15],48.116
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:26])[H:14])([H:12])[H:13],13.3888
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([C:13]([H:20])([H:21])[H:22])([C:14](=[S:15])[H:23])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:19])[H:6].[C:11]([C:12]([C:13]([H:20])([H:21])[H:22])[C:14](=[S:15])[H:23])([H:16])([H:17])[H:18],13.8072
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[O:7][H:8]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][O:7][H:8],0.0
